US07943652B2
(E)-3-((R)-4-Pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester (697 mg, 3 mmol) and 4-(2-bromo-ethyl)-3,5-dimethyl-1H-pyrazole (734 mg, 3.62 mmol) were dissolved in acetonitrile, potassium carbonate (833 mg, 6 mmol) was added, and the reaction mixture heated under nitrogen at 85° C. for 14 h. Cooled to room temperature, diluted with DCM (20 mL) and filtered through a plug of celite. Wash plug with DCM (30 mL). Filtrate was concentrated to 110 mL and columned on silica with EtOAc/hexane. Product elutes with neat EtOAc, and after concentrating gave (E)-3-(4-{(R)-1-[2-(3,5-dimethyl-1H-pyrazol-4-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester as a tacky, pale yellow solid (804 mg, 2.275 mmol, 75%).

reactant | (E)-3-((R)-4-Pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester | 3 mmol, 697 mg | COC(\C=C\C1=CC=C(C=C1)[C@@H]1NCCC1)=O | C14H17NO2
reactant | 4-(2-bromo-ethyl)-3,5-dimethyl-1H-pyrazole | 3.62 mmol, 734 mg | BrCCC=1C(=NNC1C)C | C7H11BrN2
reactant | potassium carbonate | 6 mmol, 833 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-{(R)-1-[2-(3,5-dimethyl-1H-pyrazol-4-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | COC(\C=C\C1=CC=C(C=C1)[C@@H]1N(CCC1)CCC=1C(=NNC1C)C)=O | C21H27N3O2
